US08232265B2
Benzalkonium Salicylate
Benzalkonium saccharinate (0.01 mol) and benzoic acid (0.01 mol) were dissolved in 25 mL of hot acetone. The mixture was stirred at room temperature for 5 h. Distilled water was added. The organic phase was separated and washed with distilled water. Organic phase was evaporated and the product, benzalkonium salicylate, was dried under vacuum. 1H and 13C NMR (DMSO) were obtained.

reactant | Benzalkonium | 0.01 mol | CCCCCCCCCCCCC[N+](C)(C)CC=1C=CC=CC1
reactant | benzoic acid | 0.01 mol | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | water | O | H2O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | Benzalkonium Salicylate | CCCCCCCCCCCCC[N+](C)(C)CC=1C=CC=CC1.C(C=1C(O)=CC=CC1)(=O)[O-] | InChI=1S/C22H40N.C7H6O3/c1-4-5-6-7-8-9-10-11-12-13-17-20-23(2,3)21-22-18-15-14-16-19-22;8-6-4-2-1-3-5(6)7(9)10/h14-16,18-19H,4-13,17,20-21H2,1-3H3;1-4,8H,(H,9,10)/q+1;/p-1
